US05637554
a) 4-Methyl-5H-indeno[3,2-b]pyridin-5-one
A mixture of 51 g (0.211 mol) of ethyl 2-phenyl-4-methylnicotinate and 500 g of polyphosphoric acid was stirred at 140° C. for 7 hours, cooled, stirred into 700 g of ice, rendered alkaline with conc. ammonia solution and extracted with ethyl acetate. The combined extracts were washed twice with water, dried over K2CO3 and concentrated. The product thus obtained was then digested with diethyl ether for 2 hours, filtered off with suction and dried. Yield 18.6 g (45% of theory), yellowish crystals of m.p. 137°-139° C.

reactant | ethyl 2-phenyl-4-methylnicotinate | 0.211 mol, 51 g | C1(=CC=CC=C1)C1=C(C(=O)OCC)C(=CC=N1)C | C15H15NO2
reactant | ammonia | N | H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Methyl-5H-indeno[3,2-b]pyridin-5-one | CC1=C2C(=NC=C1)C=1C=CC=CC1C2=O | C13H9NO
